US04770988
(i) Synthesis of 2-(4-t-Amyl-2-Chlorophenoxy)Octanoic Acid
A mixture of 37.2 g of 4-t-amyl-2-chlorophenol, 200 ml of toluene, and 20.4 g of sodium hydroxide was heated to 80° C., and 40.3 g of ethyl 2-bromooctanoate was added dropwise thereto over a period of one hour, followed by reacting the mixture at that temperature for 3 hours. After cooling the mixture with water, 300 ml of water was added thereto, and 40 ml of concentrated hydrochloric acid was dropwise added. The organic layer was separated, washed twice with water, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 55 g of an oily substance.

reactant | 4-t-amyl-2-chlorophenol | 37.2 g | C(C)(C)(CC)C1=CC(=C(C=C1)O)Cl | C11H15ClO
reactant | sodium hydroxide | 20.4 g | [OH-].[Na+]
reactant | ethyl 2-bromooctanoate | 40.3 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-t-Amyl-2-Chlorophenoxy)Octanoic Acid | C(C)(C)(CC)C1=CC(=C(OC(C(=O)O)CCCCCC)C=C1)Cl | C19H29ClO3
